US08937090B2
1) N-o-anisoyl-β-alanine (N-2′-methoxybenzoyl-β-alanine)
Ten grams of β-alanine and 9 g of sodium hydroxide were dissolved in 100 mL of purified water, and 17.4 g of o-anisoylchloride were added dropwise under freezing conditions. After stirring for six hours, hydrochloric acid was added and the pH was adjusted to 2 or less. After extraction with 500 mL of ethyl acetate, the product was desiccated over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting residue was recrystallized with aqueous ethanol, and 17.0 g of the desired product was obtained (yield of 75%).

reactant | β-alanine | Ten grams | NCCC(=O)O | C3H7NO2
reactant | sodium hydroxide | 9 g | [OH-].[Na+]
reactant | o-anisoylchloride | 17.4 g | C(C=1C(=CC=CC1)OC)(=O)Cl | C8H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 mL | O | H2O
product | N-o-anisoyl-β-alanine | 17.0 g, yield of 75% | C(C=1C(=CC=CC1)OC)(=O)NCCC(=O)O | C11H13NO4
